Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p dilation of esophageal stricture transferred for 
pneumoperitoneum
 
Major Surgical or Invasive Procedure:
___: exploratory laparotomy, EGD
 
History of Present Illness:
___ w/PMHx Down's Syndrome, esophageal stricture, per report had 
balloon dilatation, developed abdominal pain + emesis , seen at 
___ with xray demonstrating free air. Became unresponsive with 
perintubation arrest (?bradycardia + pause), cooled. HD stable 
for transport over. Had zosyn / flagyl prior to transport. 
Trasnferred secondary to perforated viscus. 

 
Past Medical History:
Downs, esophageal stricture

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
On day of admission:
Vitals: T 100.6, HR 93 (63-93), BP 93/37 (MAPs 52-83), RR ___,
on CMV/AS+ ___ (MAP 22); 93%
General: Lying in bed, intubated, unresponsive. 
HEENT: Has facies of Down Syndrome. Has lubricant in eyes.
Significant left cataract. Intubated. Tongue protruding with dry
mucous membranes. Pulmonary: Coarse rhonchorous BS bl; 
Cardiac: Heart sounds distant; RRR
Abdomen: +BS, soft, slightly distended
Extremities: edematous through knees; in spasticity boots; 1+ DP
pulse
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Intubated, sedated. Does not open eyes to 
noxious
stimuli or follow and commands
-CN: R pupil pinpoint and sluggishly reactive; left eye obscured
by cataract but pupil also appears pinpoint. Does not blink to
threat. Corneals present. Has slight movement with VOR but not
full EOMI. Does not grimace. Per nurse, gag is present but due 
to
hemodynamic instability, I did not test this personally. 
-Motor: Decreased bulk and tone throughout. With noxious stimuli
has very slight withdrawal (proximal muscle twitch) of all
extremities, more visible on right than left. 
-Sensory: No grimace to noxious stimuli but does have minimal
withdrawal. 
-DTRs: sustained clonus at ankles bl
  Bi Tri ___ Pat Ach
L  3  2+   2+   3   4
R  3  2+   2+   3   4
Plantar response mute bilaterally.

 
Pertinent Results:
ECHO ___: Normal global and regional biventricular systolic 
function. Mild pulmonary artery hypertension.  

CT head ___: No evidence of an acute intracranial process.
CT Torso ___: 1. No definite evidence of bowel or esophageal 
perforation.  2. Moderate volume of ascites.  Extensive 
bilateral consolidation in keeping with severe aspiration.   
Interstitial pulmonary edema with bilateral pleural effusions 
and body wall edema as described. 

EEG pending
 
Brief Hospital Course:
Ms. ___ was examined by the ACS service in the ED after transfer 
from an OSH with a KUB that showed massive free air. After 
consent was obtained from family with interpreter, the patient 
was taken emergently to the operating room for EGD and 
exploratory laparotomy.  No sign of esophageal or 
intra-abdominal perforation was found.  Please see operative 
report for details.

She remained paralyzed, sedated and intubated after surgery and 
was treated for ARDS with supportive care and an infection of 
unknown source with broad spectrum antibiotics. 
    
___: Continued resuscitation, low MAPs requiring increased 
pressor use, new non-anion gap acidosis, possibly ___ fluid 
resuscitation. CT scan performed showing interstitial pulm 
edema, bilateral pulm consolidations, no evidence of 
esophageal/bowel perforation.  Lactate trending upwards  

___: 1 amp HCO3 for acidosis, mIVF and albumin given for 
underfilled RV on bedside echo.

___ When the paralytic agent was removed for a few hours, the 
patient's oxygenation worsened so paralysis was resumed.  An EEG 
was done which showed abnormal burst suppression.  Neurology 
evaluated the patient and determined that these results are 
difficult to interpret while patient is sedated as these 
medications can also cause burst suppression.  

___  Increasing WBC count to 39,000. Changed fluconazole to 
mica.  Had family meeting; family decided to defer definitive 
decision until all stake holders present. Continued difficulty 
with oxygenation. Bedside echo showed possible suboptimal 
ventricular filling, given a bolus of IV fluid, leading to 
increased oxygen requirements. Given 20 of lasix to which there 
was no response. In the afternoon she was started on bicarb 
bolus amp x2 and then started on a drip of 15 meq/hr for her 
refractory acidosis. She was also started on hydrocortisone. Her 
MAPs improved subsequently, she was repositioned and her 
oxygenation improved.  

___ Started iNO with improved CO/CI and oxygenation. Family 
meeting, plan to make patient CMO and terminally extubate 
tomorrow afternoon. iNO stopped.

On ___, the patient was extubated and made CMO and expired 
shortly after extubation.
 
Medications on Admission:
Unknown
 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
respiratory failure, ARDS, multi organ system failure, septic 
shock
 
Discharge Condition:
Expired
 
Discharge Instructions:
The patient expired
 
Followup Instructions:
___